US04638067
[3R-(R*,R*)]-3-Chloromethyl-1-(1-phenylethyl)pyrrolidine
A solution of 0.50 g (2.44 mmol) [3R-(R*,R*)]-1-(1-phenylethyl)-3-pyrrolidinemethanol in 5 ml 1,2-dichloroethane was treated with 2 ml thionyl chloride, refluxed two hours, evaporated, and crystallized by trituration with ether to afford 0.64 g (100%) of the title compound as the hydrochloride, mp 140°-146° C., [α]D +27.8° C. (c, 1.07, methanol).

reactant | 1-(1-phenylethyl)-3-pyrrolidinemethanol | C1(=CC=CC=C1)C(C)N1CC(CC1)CO | C13H19NO
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 3-Chloromethyl-1-(1-phenylethyl)pyrrolidine | 0.64 g, 100% | ClCC1CN(CC1)C(C)C1=CC=CC=C1 | C13H18ClN
